US08470859B2
5-chloro-1-[2-chloro-5-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride
To a solution of 2-amino-5-chloronicotinamide (0.15 g) in 35 N,N-dimethylformamide (3 ml) was added 2-(bromomethyl)-1-chloro-4-(methylsulfonyl)benzene (0.30 g), and the mixture was stirred at 100° C. for 4 hr. The reaction mixture was quenched with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was treated by silica gel chromatography (ethyl acetate100%→ethyl acetate:methanol=4:1) to give a yellow solid. The obtained solid was dissolved in methanol, and 2N hydrochloric acid-methanol solution (0.1 ml) was added. The solvent was concentrated under reduced pressure and the residue was crystallized from methanol-ethyl acetate to give the title compound (5 mg).

reactant | 2-amino-5-chloronicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)Cl | C6H6ClN3O
reactant | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | 2-(bromomethyl)-1-chloro-4-(methylsulfonyl)benzene | 0.30 g | BrCC1=C(C=CC(=C1)S(=O)(=O)C)Cl | C8H8BrClO2S
reactant | hydrochloric acid methanol | 2N, 0.1 ml | Cl.CO
solvent | methanol | CO | CH4O
product | 5-chloro-1-[2-chloro-5-(methylsulfonyl)benzyl]-2-imino-1,2-dihydropyridine-3-carboxamide hydrochloride | 5 mg | Cl.ClC=1C=C(C(N(C1)CC1=C(C=CC(=C1)S(=O)(=O)C)Cl)=N)C(=O)N | InChI=1S/C14H13Cl2N3O3S.ClH/c1-23(21,22)10-2-3-12(16)8(4-10)6-19-7-9(15)5-11(13(19)17)14(18)20;/h2-5,7,17H,6H2,1H3,(H2,18,20);1H
